US06753322B2
Benzyl 2-[({[2-(piperidinyl)ethyl]amino}carbonyl)amino]-ethylcarbamate
Prepared from benzyl 2-aminoethylcarbamate hydrochloride and N-[2-1-piperidinyl)ethyl]-1H-imidazole-1-carboxamide (Preparation 18) by a similar procedure to Preparation 50. The title compound was obtained as a yellow oil.

reactant | benzyl 2-aminoethylcarbamate hydrochloride | Cl.NCCNC(OCC1=CC=CC=C1)=O
reactant | 1H-imidazole-1-carboxamide | N1(C=NC=C1)C(=O)N | C4H5N3O
product | Benzyl 2-[({[2-(piperidinyl)ethyl]amino}carbonyl)amino]-ethylcarbamate | N1(CCCCC1)CCNC(=O)NCCNC(OCC1=CC=CC=C1)=O | C18H28N4O3
